US09388166B2
A solution of [2-(2-chloro-6-methoxy-phenyl)-1H-indol-6-yl]-carbamic acid tert-butyl ester (120 mg, 0.32 mmol) in CH2Cl2 (5 mL) was added 2,2,2-trifluoroacetic acid (0.5 mL) at 25° C. The solution was heated to reflux for 3 h, concentrated and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave a brown solid. Flash chromatography (70/30 hexanes/ethyl acetate) afforded 2-(2-chloro-6-methoxy-phenyl)-1H-indol-6-ylamine (80 mg, 91%) as a white solid. MH+ 272.9.

reactant | [2-(2-chloro-6-methoxy-phenyl)-1H-indol-6-yl]-carbamic acid tert-butyl ester | 0.32 mmol, 120 mg | C(C)(C)(C)OC(NC1=CC=C2C=C(NC2=C1)C1=C(C=CC=C1OC)Cl)=O | C20H21ClN2O3
reactant | 2,2,2-trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-chloro-6-methoxy-phenyl)-1H-indol-6-ylamine | 80 mg, 91% | ClC1=C(C(=CC=C1)OC)C=1NC2=CC(=CC=C2C1)N | C15H13ClN2O
